Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Knee pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a ___ female with HTN, breast
cancer under surveillance -declined lumpectomy but is on
anstrazole, CKD with Cr = 1.37-> 1.64 (___), hypothyroidism
who was referred in from PCP, gets care in partners system but 
on
downtime so advised to come here, to be evaluated for weakness
and LUQ pain. UA w/ leuks and nitrites, and also c/f jaundice.
Per the home health aide, pt has been unable to ambulate and get
up x2 days. Her PCP also noted right knee swelling. Currently 
the
pt has no complaints but is a poor historian; the ___ notes pt
never complains. ___ does have hx HTN, breast cancer, and
dementia. ___ denies fever, chills. Pt is currently denying CP,
SOB, diarrhea, N/V, headache, dizziness, extremity weakness or
paresthesia. Per the family recently stopped "water pill" and
aspirin, likely due to increased creatinine. Per the ED the ___,
pt can normally ambulate and walk up stairs to her bedroom.
Today, she progressed to the point where she could not walk at
all which is not normal for her. 
In the ED: VS upon arrival:
0 |99.3 |73 |139/60 |16 |100% RA 
She was given dextrose, IVF/ ceftriaxone and Tylenol. 
Her BG decreased to 49 and she was given dextrose. It decreased
again to 69 and she was given an amp of dextrose just prior to
transfer. 
Upon arrival to the floor the patient reports feeling cold. She
denies other sx such as dysuria, n/v/d/chest pain or shortness 
of
breath. She wonders how she came to be here at ___ 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
=================================
PAST MEDICAL/SURGICAL HISTORY:

==========================================
SOCIAL HISTORY:
She tells me that she lives like a queen. She has a housekeeper
who does everything. She is independent of ADLS. She walks with 
a
cane. No recent falls. Per Partners notes she lives with 24
caregivers ___ and ___.
HCP:Parnters system
Name: 
 
Past Medical History:
Macular degeneration 
Breast cancer - Malignant tumor of  left breast- invasive ductal
carcinoma, ER/PR positive, HER-2 negative, detected on routine
screening mammogram in ___. "Continues to tolerate
anastrozole and will follow up with oncology as scheduled.  She
has deferred mammography as would not intervene". 
Dementia 
Hearing loss 
Amnesia 
Urinary incontinence 
Hypothyroidism 
Hypertensive disorder 
Osteoporosis 
Chronic renal impairment 
Hyperkalemia 
Edema of lower extremity 

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
97.5 PO 136 / 69 65 18 95 RA 
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally 2 mm b/l
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, diastolic murmur best heard at the ___ but
also throughout the precordium
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, + visible swelling in 
right knee, tender to touch but not warm nor red
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x2 ___, self. She does not know the day
of the week.  face symmetric, gaze conjugate with EOMI, speech
fluent, moves all limbs, sensation to light touch grossly intact
throughout
PSYCH: pleasant, appropriate affect
Gait:  Steady gait with cane and when accompanied by her PCT

On discharge, patient was AOx3, able to recite months of year 
backwards, but unable to tell me the reason for her 
hospitalization
 
Pertinent Results:
___ 06:02PM BLOOD WBC-11.1* RBC-3.28* Hgb-10.5* Hct-31.8* 
MCV-97 MCH-32.0 MCHC-33.0 RDW-11.9 RDWSD-42.3 Plt ___
___ 03:15PM BLOOD WBC-9.4 RBC-3.18* Hgb-10.0* Hct-30.2* 
MCV-95 MCH-31.4 MCHC-33.1 RDW-11.9 RDWSD-41.2 Plt ___
___ 06:02PM BLOOD Glucose-66* UreaN-22* Creat-1.4* Na-141 
K-4.1 Cl-102 HCO3-21* AnGap-18
___ 09:15AM BLOOD Glucose-100 UreaN-18 Creat-1.3* Na-144 
K-4.1 Cl-110* HCO3-18* AnGap-16
___ 06:02PM BLOOD ALT-6 AST-16 CK(CPK)-67 AlkPhos-72 
TotBili-0.8
___ 06:02PM BLOOD cTropnT-<0.01
___ 06:02PM BLOOD CK-MB-1 cTropnT-<0.01 proBNP-1040*

Urine culture
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         PREDOMINATING ORGANISM INTERPRET RESULTS WITH CAUTION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     2 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------       S
TRIMETHOPRIM/SULFA----   <=___. The uterine endometrium is markedly thickened measuring up to 
3.9 cm, 
concerning for possible endometrial malignancy.  Correlation 
with nonurgent 
pelvic ultrasound is recommended. 
2. Otherwise, no acute process in the abdomen or pelvis. 

Right knee xray
Features of chondrocalcinosis.  Osteopenia.  No fracture.

1. Mild fullness of the right hilum is nonspecific, and may be 
artifactual in nature secondary to patient positioning, versus 
hilar lymphadenopathy.  This may be further evaluated with 
dedicated noncontrast enhanced CT chest if clinically indicated. 

2. No evidence of acute cardiac decompensation. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ female who was brought in by 
caretakers for acute onset difficulty walking.  She complained 
of knee pain, which improved in the hospitalization.  She 
appears to have a new onset anemia.  

ACUTE/ACTIVE PROBLEMS:
Knee pain - likely causing difficulty with ambulation.  Imaging 
suggesting chondrocalcinosis which may come from pseudogout.  
Will avoid NSAIDs given age, treated with standing Tylenol.  I 
spoke with NP at her PCP office and urged rheumatology 
evaluation should her symptoms worsen Tylenol for possible 
consideration of steroid injection or use of other oral agents.  
She was evaluated by ___ who felt that she was safe to return 
home given ongoing cane use and given that PCT will accompany 
her when ambulating.  
.
Anemia:  Hct was 31 here, where it was 35 at PCP office about 3 
weeks ago.  I spoke with her PCP who denied any black stool or 
blood in stool.  Hematocrit was stable during hospitalization 
and she will have it rechecked at PCP ___.  NP is aware.  

? UTI:  There was initial concern for UTI based on UA, but she 
denied any symptoms, and U cx showed many organisms c/w 
contaminant, so she was not treated with antibiotics on 
discharge.  
.
ENDOMETRIAL MASS:
- need to d/w friend/HCP ___. She declined surgery for her
breast mass and has been on anastrazole thus it is hard to see
her pursuing an aggressive w/u for that.  ___ aware and 
PCP NP aware.  
.
HILAR FULLNESS:
- Seen on chest xrays in Partners system previously
- no intervention at this time.
- Also discussed with ___ (HCP) and NP.  
.
CHRONIC/STABLE PROBLEMS:
# L BREAST CANCER: declined surgery - continue anastrozole 
# DEMENTIA: continue Aricept 23 mg
# HTN: continue triamterene
# CHRONIC KIDNEY DISEASE WITH CR = 1.4- at baseline, GFR = 26

PPX: continue vit C/calcium/vitamin D

Care discussed with PCT/HCP/NP.
Greater than ___ hour spent on care on day of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Anastrozole 1 mg PO DAILY 
2. Ascorbic Acid ___ mg PO DAILY 
3. calcium carbonate-vitamin D3 500 mg(1,250mg) -400 unit oral 
BID 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Donepezil 23 mg PO QHS 
7. Fish Oil (Omega 3) 500 mg PO DAILY 
8. Triamterene 50 mg PO DAILY 
9. Vitamin E 400 UNIT PO DAILY 
10. zinc citrate-phytase ___ mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q8H  
2.  Anastrozole 1 mg PO DAILY  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  calcium carbonate-vitamin D3 500 mg(1,250mg) -400 unit oral 
BID  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  Donepezil 23 mg PO QHS  
8.  Fish Oil (Omega 3) 500 mg PO DAILY  
9.  Triamterene 50 mg PO DAILY  
10.  Vitamin E 400 UNIT PO DAILY  
11.  zinc citrate-phytase ___ mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Knee pain
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were brought into the hospital with knee pain.  You improved 
with Tylenol.  You clearly have some swelling on the right knee, 
but there is no infection.  I recommend that you take Tylenol 
___ mg by mouth three times a day.  Your xrays showed some 
calcium deposition in your knees, so you can consider followup 
with a rheumatologist to see if you would benefit from other 
treatments.  I discussed this with ___, your NP at Dr ___ 
___.
Also, you have a mild anemia (lower blood count) than prior.  It 
is very important that you have it rechecked at Dr ___ 
___ within a week.  
 
Followup Instructions:
___